US07902367B2
Step 69c) Methyl 3-[3-[N-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbamoyl]piperidin-1-yl]benzoate
Using N-[2-(4-chlorophenyl)-4-methylthiazole-5-yl]piperidine-3-carboxamide (36.0 mg, 0.107 mmol) and 3-methoxycarbonylphenylboric acid (38.5 mg, 0.214 mmol), the same procedure was followed as in Example 4 to give 21.3 mg (42%) of the desired compound as a pale yellow powder.

reactant | N-[2-(4-chlorophenyl)-4-methylthiazole-5-yl]piperidine-3-carboxamide | 0.107 mmol, 36.0 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)NC(=O)C1CNCCC1 | C16H18ClN3OS
reactant | 3-methoxycarbonylphenylboric acid | 0.214 mmol, 38.5 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[N-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbamoyl]piperidin-1-yl]benzoate | 21.3 mg, 42% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)NC(=O)C1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C24H24ClN3O3S
